US08633318B2
4-[3-(4-Chlorophenyl)-pyrazolo[4,3-c]pyridin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester (200 mg, 0.48 mmol) was dissolved in DCM (5 mL) and TFA (5 mL) was added. The reaction mixture was stirred at room temperature for 30 min. The solvents were removed in vacuo and the residue was dissolved in 1 M aq Na2CO3 solution (50 mL) and extracted with DCM (3×50 mL). The combined organic layers were dried (MgSO4) and the solvents removed in vacuo. The residue was purified by reverse phase HPLC (YMC ODS-A 100×20 mm, 5 μm, 25 mL/min, gradient 40% to 100% (over 7 min) then 100% (3 min) MeOH in 10% MeOH/water) to give 3-(4-chlorophenyl)-1-piperidin-4-yl-1H-pyrazolo[4,3-c]-pyridine (76 mg, 50.2%) as a white solid.

reactant | 4-[3-(4-Chlorophenyl)-pyrazolo[4,3-c]pyridin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.48 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=C(C=2C=NC=CC21)C2=CC=C(C=C2)Cl | C22H25ClN4O2
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-chlorophenyl)-1-piperidin-4-yl-1H-pyrazolo[4,3-c]-pyridine | 76 mg, 50.2% | ClC1=CC=C(C=C1)C1=NN(C2=C1C=NC=C2)C2CCNCC2 | C17H17ClN4
